2137-12-29 07:11:00 Physician Resident Progress Note
Chief Complaint: Metastatic HCC with PE.
   24 Hour Events:
   -[**Name (NI) **] pt's family at [**Telephone/Fax (1) 6622**]- Talked with woman who called
   herself the pt's mother- [**Name (NI) 272**] [**Name (NI) 6623**] [**Name (NI) 6624**] and pt's cousin- [**Name (NI) 4857**] [**Name (NI) **]. I
   told them the pt is here and very ill. They seemed to be aware of his
   chronic illness and have apparently seen him within the last week or
   so. The woman stated that the pt also has an adoptive mother in [**Country 2351**]
   but she does not know where this woman is. She will try to get contact
   info for this other mother and bring it with her to the hospital
   tomorrow.... The pt's relatives ("mother" [**Doctor Last Name 272**], "father", and cousin)
   came in this evening around 7pm. Through an interpreter, I informed
   them of the pt's condition and that it is very serious. They will
   attempt to contact the family in [**Country 2351**] themselves.
   -Attempted to contact Dr. [**First Name (STitle) 1232**] via e-mail and [**Doctor Last Name 123**] via page (Onc) but
   was unsuccessful. Pt states he will follow their recommendations re:
   code status/ goals of care/ further tx.
   -Consulted palliative care. Switched pain medications to Dilaudid PCA
   and titrated up. Will call gain tomorrow am- [**First Name8 (NamePattern2) 566**] [**Last Name (NamePattern1) 567**] at [**Telephone/Fax (1) 6625**].
   -Started NS 100/hr for maintainence fluids but Na dropped to 127 so
   will d/c IVF
   -Sent Urine lytes for ? SIADH with hyponatremia
   -continuing Heparin gtt for now.
   -Took CXR at 8pm given 2pt Hct drop during day- looks unchanged. Pt sat
   99% on RA and no evidence of bleed currently.
   -On Zofran and Ativan prn for nausea
   -Pt continues to c/o pain now abd pain on Dilaudid PCA and Toradol prn
   -Pt fluid challenged with 1L NS to which Na went from 131-127. Likely
   has SIADH from lung mets. Pt not taking much PO so no need to fluid
   restrict at this time but should refrain from using additional IVF.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-12-29**] 12:05 AM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2137-12-28**] 02:00 PM
   Lorazepam (Ativan) - [**2137-12-29**] 05:30 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Respiratory: Dyspnea
   Gastrointestinal: No(t) Abdominal pain, Nausea, Emesis
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Rash
   Heme / Lymph: No(t) Anemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious, Daytime
   somnolence
   Flowsheet Data as of  [**2137-12-29**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 95 (74 - 125) bpm
   BP: 116/74(83) {102/50(66) - 124/78(87)} mmHg
   RR: 20 (12 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,232 mL
                                                                    916 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    872 mL
                                                                    916 mL
   Blood products:
   Total out:
                                                                    510 mL
                                                                    200 mL
   Urine:
                                                                    510 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    722 mL
                                                                    716 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at right base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): x1. Knows year not month. Knows hospital
   but not which one, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   286 K/uL
   8.5 g/dL
   112 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.3 mEq/L
   11 mg/dL
   90 mEq/L
   127 mEq/L
   26.6 %
   11.4 K/uL
        [image002.jpg]
                            [**2137-12-27**]  10:00 PM
                            [**2137-12-28**]  05:48 AM
                            [**2137-12-28**]  05:37 PM
                            [**2137-12-29**]  03:45 AM
   WBC
   7.9
   9.2
   11.4
   Hct
   28.1
   26.1
   26.6
   Plt
   282
   257
   286
   Cr
   0.5
   0.5
   0.6
   0.6
   Glucose
   105
   92
   96
   112
   Other labs: PT / PTT / INR:17.7/74.6/1.6, ALT / AST:29/145, Alk Phos /
   T Bili:156/1.4, Differential-Neuts:77.2 %, Lymph:16.7 %, Mono:3.6 %,
   Eos:2.3 %, Albumin:2.8 g/dL, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 MALNUTRITION
 CHRONIC PAIN
 PULMONARY EMBOLISM (PE), ACUTE
   30 man with metastatic HCC now with increased SOB, pain found to have
   worsening PE's.
   -
   # Pulmonary Embolism: Hemodynamically stable overnight. O2 saturation
   stable. Continued on Heparin gtt without signs of bleeding or worsening
   of hemorrhagic pleural effusion.
   - Cont home O2 dose
   - Cont Heparin gtt
   - active T+C
   - 2 PIVs
   - Cont pain control with dilaudid.
   .
   # Pneumonia: Afebrile without leukocytosis overnight.  CXR findings of
   a LUL/?post-obstructive pneumonia.
   - HAP coverage with Vanc / Levo (Currently not double covering for Gram
   Negatives)
   - F/U sputum cx.
   - F/U bcx
   - Nebs/O2 prn.
   # Hyponatremia: 129 today from 128 following NS.  Likely secondary to
   SIADH.  Although pt with decreased PO, question tea and toast diet.
   - f/u urine lytes
   - Gentle IVF with NS
   .
   # Metastatic HCC/Hep [**Name (NI) **] Per pt's outpt oncologist, pt is s/p cycle [**4-11**]
   of chemotherapy. Pt attempting full regimen. Known metastasis to the
   lung and abdomen. Head Ct appears without acuteintracranial process, no
   signs of metastases.
   - Pain Control with dilaudid
   - f/u Heme/Onc C/S today
   ICU Care
   Nutrition: Regular diet as able
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2137-12-27**] 06:12 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU